### PR TITLE
feat(Asymptotics): define `ReflectsGrowth`

### PR DESCRIPTION
**Pull request by urkud**
---

- [x] depends on: #8349 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by YaelDillies — COMMENTED** [review]
This is an interesting idea. But I don't know how useful it will be in practice. Typically `id : ℕ → ℕ` reflects growth of polynomials, but what about functions `x ↦ x ^ m * log x ^ n`? We will start needing theory about `ℕ ×ˡ ℕ` or similar. Not necessarily a bad thing.

**Comment by urkud** [comment]
Yes, for functions like that you need `Lex`.

**Comment by fpvandoorn** [comment]
Marking as `awaiting-author`. Please replace that label with `awaiting-review` if appropriate.

**Comment by urkud** [comment]
@fpvandoorn Are there any requested changes?

File: Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean [hunk 1]
```diff
@@ -0,0 +1,267 @@
...
+
+variable {f : ι → α → E} {g : ZeroHom ι β} {l : Filter α} {i j : ι}
+
+lemma isTheta_one_right (h : ReflectsGrowth₀ f g l) {a} : f a =Θ[l] (1 : α → ℝ) ↔ g a = 0 := by
+  simp_rw [← h.isTheta_map_zero_one.isTheta_congr_right, h.isTheta, map_zero]
+
+lemma isBigO_one_right (h : ReflectsGrowth₀ f g l) {a} : f a =O[l] (1 : α → ℝ) ↔ g a ≤ 0 := by
+  simp_rw [← h.isTheta_map_zero_one.isBigO_congr_right, h.isBigO, map_zero]
+
+lemma isBigO_one_left (h : ReflectsGrowth₀ f g l) {a} : (1 : α → ℝ) =O[l] f a ↔ 0 ≤ g a := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean:116]: Since `=O[l]` is an infix, what about
```suggestion
lemma one_isBigO (h : ReflectsGrowth₀ f g l) {a} : (1 : α → ℝ) =O[l] f a ↔ 0 ≤ g a := by
```
and the lemma above would become `isBigO_one`?

File: Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean [hunk 2]
```diff
@@ -0,0 +1,267 @@
...
+end ReflectsGrowth₀
+
+end
+
+section
+
+variable {G α H E : Type*} [AddGroup G] [LinearOrderedAddCommGroup H] [NormedAddCommGroup E]
+  {f : G → α → E} {g : G →+ H} {l : Filter α}
+
+/-- -/
```
Comment (YaelDillies) [inline Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean:158]: Missing docstring

File: Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean [hunk 3]
```diff
@@ -0,0 +1,267 @@
...
+
+lemma reflectsGrowthAddMul_zpow_atBot :
+    ReflectsGrowthAddMul (fun (n : ℤ) (x : ℝ) ↦ x ^ n) (AddMonoidHom.id ℤ) atBot :=
+  reflectsGrowthAddMul_zpow_cobounded.mono (by simp)
+
+@[simp]
+lemma isLittleO_zpow_zpow_atTop {m n : ℤ} : (· ^ m : ℝ → ℝ) =o[atTop] (· ^ n) ↔ m < n :=
+  reflectsGrowthAddMul_zpow_atTop.isLittleO
+
+lemma reflectsGrowth₀_pow_atTop : ReflectsGrowth₀ (fun (n : ℕ) (x : ℝ) ↦ x ^ n) (.id _) atTop := by
```
Comment (YaelDillies) [inline Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean:264]: Why is this statement different to the `zpow` one? Why do you need all three of `ReflectsGrowth`, `ReflectsGrowth_0`, `ReflectsGrowthAddMul`?

File: Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean [hunk 4]
```diff
@@ -0,0 +1,267 @@
...
+variable [Zero ι] [Zero β]
+
+/-- A zero homomorphism `g : ZeroHom ι β` with linear ordered codomain
+*reflects growth* of a family of functions `f : ι → α → E` along a filter `l`, if
+
+- `g` reflects growth of `f` along `l` in the sense of `Asymptotics.ReflectsGrowth`,
+- `g 0 = 0`,
+- `f 0 =Θ[l] 1`.
+-/
+structure ReflectsGrowth₀ (f : ι → α → E) (g : ZeroHom ι β) (l : Filter α)
```
Comment (YaelDillies) [inline Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean:102]: `_0` has the connotation of adding a zero to a multiplicative monoid, which is not what's happening here (I think?). What about
```suggestion
structure ReflectsGrowthZero (f : ι → α → E) (g : ZeroHom ι β) (l : Filter α)
```

**Review by YaelDillies — COMMENTED** [review]
Floris simply meant to remark that you didn't tag the PR with `awaiting-review`. But that is no more, so 🤷

File: Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean [hunk 5]
```diff
@@ -0,0 +1,267 @@
...
+lemma isLittleO (h : ReflectsGrowth f g l) : f i =o[l] f j ↔ g i < g j := by
+  cases lt_or_le (g i) (g j) with
+  | inl hij => simp [hij, h.isLittleO_of_lt]
+  | inr hji => simp [hji.not_lt, (h.isBigO.2 hji).not_isLittleO h.frequently_ne]
+
+lemma isTheta (h : ReflectsGrowth f g l) : f i =Θ[l] f j ↔ g i = g j := by
+  simp only [IsTheta, h.isBigO, le_antisymm_iff]
+
+lemma congr_right {γ : Type*} [LinearOrder γ] {g' : ι → γ} (h : ReflectsGrowth f g l)
+    (hg : ∀ {i j}, g i < g j ↔ g' i < g' j) : ReflectsGrowth f g' l where
```
[the remark this answers is not in the document]
Comment (urkud) [reply Mathlib/Analysis/Asymptotics/ReflectsGrowth.lean:72]: I'll try. I didn't know about `Monovary` when I was writing this file a few months ago.

**Comment by urkud** [comment]
@YaelDillies Thanks for your review! I'll update the PR, probably on the weekend.

**Comment by urkud** [comment]
> Floris simply meant to remark that you didn't tag the PR with `awaiting-review`. But that is no more, so 🤷

:facepalm: By the time I was writing my comment, the label was already gone, so I didn't remember if this PR had it or not.

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
